US07064123B1
To a stirring mixture of itacconic anhydride 1.1209 g, 10 mmol) in 10 ml of methylene chloride at 0° C. was added drop wise methyl piperizine (1.0 g, 10 mmol). The reaction was stirred at room temperature for 1 hour and the solvent was removed under reduced pressure to give compound 2-[2-(4-methyl-piperazin-1-yl)-2-oxo-ethyl]-acrylic acid. The residue was dissolved in 10 ml of DMF, then benzyl mercaptan (1.17 g, 10.0 mmol) and DMAP (122 mg, 1 mmol) were added and heated to 50–60° C. until reaction turned clear then the reaction was stirred at room temperature for overnight. Another 0.59 ml of benzyl mercapton (5 mmol) was added and the reaction was stirred overnight at room temperature. The mixture containing compound 2-benzylsulfanylmethyl-4-(4-methyl-piperazin-1-yl)-4-oxo-butyric acid was cooled to 0° C. and oxone® (6.1378 g, 10 mmol) in 20 ml of water was added and stirred for overnight at room temperature. More oxone® was added and the reaction was stirred at room temperature for 2 hours. The reaction was filtered and the product was in the aqueous phase and was purified on HPLC to give 0.2477 gram of pure 4-(4-methyl-piperazin-1-yl)-4-oxo-2-benzylsulfonylmethyl-butyric acid; LCMS retention time: 1.72 minutes; M+1 (369.3).

reactant | benzyl mercaptan | 10.0 mmol, 1.17 g | C(C1=CC=CC=C1)S | C7H8S
reactant | 2-benzylsulfanylmethyl-4-(4-methyl-piperazin-1-yl)-4-oxo-butyric acid | C(C1=CC=CC=C1)SCC(C(=O)O)CC(=O)N1CCN(CC1)C | C17H24N2O3S
reactant | oxone | OOS(=O)[O-].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | DMAP | 1 mmol, 122 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | 20 ml | O | H2O
product | 4-(4-methyl-piperazin-1-yl)-4-oxo-2-benzylsulfonylmethyl-butyric acid | 0.2477 gram | CN1CCN(CC1)C(CC(C(=O)O)CS(=O)(=O)CC1=CC=CC=C1)=O | C17H24N2O5S
